US05583135
A mixture of 2,3-dihydro-6-(2-ethoxycarbonyl-1-indolinylcarbonyl)-7-hydroxy-9-methoxy-5-oxo-5Hpyrido[1,2,3-de]-1,4-benzoxazine (2.8 g), 1N-sodium 35 hydroxide (20 ml), ethanol (20 ml) and tetrahydrofuran (20 ml was stirred for 2 hours at room temperature. The solvent was evaporated. The residue was dissolved in water and washed with ethyl acetate. The aqueous layer was acidified with hydrochloric acid to give precipitates, which were collected and washed with ethanol to afford crystals of 2,3-dihydro-6-(2-carboxy-1-indolinylcarbonyl)-7- hydroxy-9-methoxy-5-oxo-5H-pyrido[1,2,3-de]-1,4 -benzoxazine (1.6 g).

reactant | 2,3-dihydro-6-(2-ethoxycarbonyl-1-indolinylcarbonyl)-7-hydroxy-9-methoxy-5-oxo-5Hpyrido[1,2,3-de]-1,4-benzoxazine | 2.8 g | C(C)OC(=O)C1N(C2=CC=CC=C2C1)C(=O)C1=C(C=2C=C(C=C3C2N(CCO3)C1=O)OC)O | C24H22N2O7
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-dihydro-6-(2-carboxy-1-indolinylcarbonyl)-7- hydroxy-9-methoxy-5-oxo-5H-pyrido[1,2,3-de]-1,4 -benzoxazine | 1.6 g | C(=O)(O)C1N(C2=CC=CC=C2C1)C(=O)C1=C(C=2C=C(C=C3C2N(CCO3)C1=O)OC)O | C22H18N2O7
